US07288544B2
Synthesis of 4-(3-chlorophenyl)-6-methyl-N-(3-phenyl-2-propen-1-yl)-2-(pyridine-3-yl)-5-pyrimidinecarboxamide
100 mg (0.294 mmol) of 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide was dissolved in 5 ml of DMF. 60.1 mg (0.381 mmol) of 3-amidinopyridinium hydrochloride and 28.9 mg of (0.353 mmol) of sodium acetate were added thereto and stirred at room temperature overnight. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The obtained residue was stirred at 120° C. overnight, cooled down at room temperature and purified by the silica gel chromatography (hexane/ethyl acetate=1/2) to obtain the title compound.

reactant | 2-acetyl-3-(3-chlorophenyl)-N-(3-phenyl-2-propen-1-yl) acrylamide | 0.294 mmol, 100 mg | C(C)(=O)C(C(=O)NCC=CC1=CC=CC=C1)=CC1=CC(=CC=C1)Cl | C20H18ClNO2
reactant | 3-amidinopyridinium hydrochloride | 0.381 mmol, 60.1 mg | Cl.C(N)(=N)C=1C=[NH+]C=CC1
reactant | sodium acetate | 0.353 mmol, 28.9 mg | C(C)(=O)[O-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-chlorophenyl)-6-methyl-N-(3-phenyl-2-propen-1-yl)-2-(pyridine-3-yl)-5-pyrimidinecarboxamide | ClC=1C=C(C=CC1)C1=NC(=NC(=C1C(=O)NCC=CC1=CC=CC=C1)C)C=1C=NC=CC1 | C26H21ClN4O
